US05591735
Preparation of 2β-(4-oxo-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol
After adding 42 ml of 10% aqueous hydrochloric acid solution to 5 g of 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol dissolved in 100 ml of dioxane, the reaction mixture is boiled under reflux for 3 hours. After completion of the reaction, the solution is made alkaline by adding aqueous sodium hydroxide solution, dioxane is distilled off and the residue is diluted with water. After filtering, the precipitate is washed with water until neutral and dried. The crude product is dissolved in acetonitrile, clarified by activated carbon and after filtering off the adsorbent, two thirds of acetonitrile are distilled off. After filtering, the crystalline precipitate is dried to give the title product in a yield of 4.2 g (92.1%), m.p.: 136°-138° C.

reactant | hydrochloric acid | 42 ml | Cl | ClH
reactant | 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol | 5 g | O1CCOC12CCN(CC2)[C@@H]2[C@H](C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2)O | C30H50N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2β-(4-oxo-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol | O=C1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O | C28H46N2O3
